US06492562B1
P. (±)-N-[(2R*,3R*)-(3-Hydroxy-2,4,4-trimethylpentanoyl)]-2-benzoxazolone
Prepared according to the method of paragraph C by reaction of N-propionyl-2-benzoxazolone with trimethylacetaldehyde. Rapid addition of the aldehyde to the enolate solution at 0° C. gave a 1:1 ratio of the (2R*,3S*) and (2R*,3R*) isomers. The desired isomer was isolated by silica gel chromatography, then crystallized. 1H-NMR (CDCl3, 400 MHz) δ 8.05 (m, 1H), 7.20-7.27 (m, 4H), 4.24 (dq, J=7,4 Hz, 1H), 3.82 (br t, J=4 Hz, 1H), 2.33 (br d, J=4 Hz, 1H), 1.36(d, J=7 Hz, 3H), 0.99, (s, 9H). 13C-NMR (CDCl3, 100 MHz) δ 175.3, 150.8, 142.2, 127.9, 125.4, 124.9, 116.2, 109.9, 77.6, 40.3, 35.8, 29.7, 26.7, 12.7.

reactant | N-propionyl-2-benzoxazolone | C(CC)(=O)N1C(OC2=C1C=CC=C2)=O | C10H9NO3
reactant | trimethylacetaldehyde | CC(C=O)(C)C | C5H10O
product | (±)-N-[(2R*,3R*)-(3-Hydroxy-2,4,4-trimethylpentanoyl)]-2-benzoxazolone | O[C@H]([C@H](C(=O)N1C(OC2=C1C=CC=C2)=O)C)C(C)(C)C | C15H19NO4
